US09388176B2
2-Bromo-N-(3-trifluoromethyl-phenyl)-isonicotinamide
In a manner similar to that described in Preparation 17, 2-bromoisonicotinic acid and 3-trifluoromethylaniline were converted to the title compound

reactant | 2-bromoisonicotinic acid | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | 3-trifluoromethylaniline | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
product | 2-Bromo-N-(3-trifluoromethyl-phenyl)-isonicotinamide | BrC=1C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CN1 | C13H8BrF3N2O
